US06093718
2-Methyl-4-(1-piperazinyl)pyrimidine hydrochloride (18.80 g) and 1-(tert-butoxycarbonyl)-4-(4-nitrophenyloxycarbonyl) piperazine (25 g) were stirred in dry DMF (250 ml) and triethylamine (40 ml) under argon. The reaction mixture was stirred at 110° C. for 5 hours and then allowed to cool overnight. The solid was collected by filtration, washed with DMF and isohexane. The solid was purified by chromatography on silica gel using a gradient of dichloromethane to 5% methanol in dichloromethane as eluent to give 1-(tert-butoxycarbonyl)-4-(1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl)piperazine as a pale solid (19.92g); NMR (CDCl3): 8.15 (m, 1H), 6.35 (m, 1H), 3.7 (m, 4H), 3.45 (m, 4H), 3.35 (m, 4H), 3.3 (m, 4H), 2.5 (s, 3H), 1.45 (s, 9H).

reactant | 2-Methyl-4-(1-piperazinyl)pyrimidine hydrochloride | 18.80 g | Cl.CC1=NC=CC(=N1)N1CCNCC1
reactant | 1-(tert-butoxycarbonyl)-4-(4-nitrophenyloxycarbonyl) piperazine | 25 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H21N3O6
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-(tert-butoxycarbonyl)-4-(1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl)piperazine | 19.92g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=NC(=NC=C1)C | C19H30N6O3
